US08895580B2
Step 1: Preparation of ethyl {[4-(methoxy)phenyl]methyl}-4-oxo-1,4-dihydroquinoline-3-carboxylate
Ethyl 4-oxo-1,4-dihydroquinoline-3-carboxylate (3.17 g, 14.6 mmol) and 4-methoxybenzylchloride (2.18 mL, 16.0 mmol, 1.1 equiv) were combined in N,N-dimethylformamide (50 mL) and stirred at ambient temperature for 72 hours. The mixture was poured into water (500 mL) and extracted with dichloromethane (2×250 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was treated with water (500 mL), hexanes (500 mL) and ethyl acetate (500 mL) and aged for 30 minutes. The mixture was filtered and the solid was dissolved in dichloromethane (500 mL) and combined with the filtrate. The filtrate was partitioned and the aqueous layer was discarded. The organic layer was dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 4-oxo-1,4-dihydroquinoline-3-carboxylate | 14.6 mmol, 3.17 g | O=C1C(=CNC2=CC=CC=C12)C(=O)OCC | C12H11NO3
reactant | 4-methoxybenzylchloride | 16.0 mmol, 2.18 mL, 1.1 equiv | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | 500 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl {[4-(methoxy)phenyl]methyl}-4-oxo-1,4-dihydroquinoline-3-carboxylate | COC1=CC=C(C=C1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)OCC | C20H19NO4
